US07648983B2
Ethyl 4-(3-bromophenyl)-2-(tert-butoxycarbonylamino)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate
To a suspension of ethyl 2-amino-4-(3-bromophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate (6.1 g, 17 mmol) in 1,4-dioxane (35 mL), water (18 mL), and saturated aqueous sodium bicarbonate (18 mL) is added di-t-butyldicarbonate (7.42 g, 34.0 mmol, 2 equiv). The mixture is stirred for ca. 60 h. The reaction is diluted with water and extracted three times with CH2Cl2. The organic layer is dried over Na2SO4, filtered, and concentrated under reduced pressure to give a brown oil. The oil is purified by flash column chromatography on silica gel (150 g) eluting with a gradient of 0 to 100% ethyl acetate/hexane to give the title compound as a mixture of diastereomers (64% yield): MS (m/z): 457, 459 (M+1)

reactant | ethyl 2-amino-4-(3-bromophenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate | 17 mmol, 6.1 g | NC=1SC(CC(N1)(C)C1=CC(=CC=C1)Br)C(=O)OCC | C14H17BrN2O2S
reactant | sodium bicarbonate | 18 mL | C([O-])(O)=O.[Na+]
reactant | di-t-butyldicarbonate | 34.0 mmol, 7.42 g, 2 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | water | 18 mL | O | H2O
product | Ethyl 4-(3-bromophenyl)-2-(tert-butoxycarbonylamino)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate | 64% yield | BrC=1C=C(C=CC1)C1(N=C(SC(C1)C(=O)OCC)NC(=O)OC(C)(C)C)C | C19H25BrN2O4S
